US08541457B2
Synthesis of N-[4-Methyl-5-(3-phenylpropylcarbamoyl)thiazol-2-yl]isonicotinamide
Following the procedure as described in Example 1, making variations only as required to use 3-phenylpropylamine in place of benzylamine to react with 4-methyl-2-[(pyridine-4-carbonyl)amino]thiazole-5-carboxylic acid, the title compound was obtained as a white solid in 22% yield; 1H NMR (DMSO-d6, 300 MHz) δ 8.78-8.76 (m, 2H), 8.13-7.93 (m, 3H), 7.27-7.11 (m, 5H), 3.32-3.11 (m, 2H), 2.70-2.46 (m, 5H), 1.84-1.72 (m, 2H); MS (ES+) m/z 381.1 (M+1).

reactant | 3-phenylpropylamine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 4-methyl-2-[(pyridine-4-carbonyl)amino]thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)NC(=O)C1=CC=NC=C1 | C11H9N3O3S
product | N-[4-Methyl-5-(3-phenylpropylcarbamoyl)thiazol-2-yl]isonicotinamide | 22% yield | CC=1N=C(SC1C(NCCCC1=CC=CC=C1)=O)NC(C1=CC=NC=C1)=O | C20H20N4O2S
